* Spice netlister for gnetlist
.lib '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
.include '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
* 4 Standalone 1-input INV gate  
Xor1 A1 VGND VGND VPWR VPWR out_inv1 sky130_fd_sc_hd__inv_1
Xor2 A2 VGND VGND VPWR VPWR out_inv2 sky130_fd_sc_hd__inv_1
Xor3 A3 VGND VGND VPWR VPWR out_inv3 sky130_fd_sc_hd__inv_1
Xor4 A4 VGND VGND VPWR VPWR out_inv4 sky130_fd_sc_hd__inv_1
*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd

* First Example: A(1,2,3,4)= 1011
* Second Example: A(1,2,3,4)= 0011
VA1 A1 0 vd
VA2 A2 0 0
VA3 A3 0 vd
VA4 A4 0 vd
*
.tran 1ps 10ns
*
.control 
run
plot v(A1) v(A2) v(A3) v(A4) ylimit -1 3
plot v(out_inv1) ylimit -1 3 
plot v(out_inv2) ylimit -1 3 
plot v(out_inv3) ylimit -1 3 
plot v(out_inv4) ylimit -1 3 
.endc
*
.END
