* Spice netlister for gnetlist
.lib '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
.include '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
* 4-input MUX
Xmux1 A1 A2 A3 A4 S0 S1 VGND VGND VPWR VPWR out_mux1 sky130_fd_sc_hd__mux4_1

*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd

* A(1,2,3,4)= 1011
* S0 = 0
* S1 = 1
VA1 A1 0 vd
VA2 A2 0 0
VA3 A3 0 vd
VA4 A4 0 vd
VS0 S0 0 0
VS1 S1 0 1


*
.tran 1ps 10ns
*
.control 
run
plot v(A1) v(A2) v(A3) v(A4) v(S0) v(S1) ylimit -1 3
*plot v(B1) v(B2) v(B3) v(B4) ylimit -1 3
plot v(out_mux1) ylimit -1 3 
*plot v(out_xor2) ylimit -1 3 
*plot v(out_xor3) ylimit -1 3 
*plot v(out_xor4) ylimit -1 3 
.endc
*
.END

*sky130_fd_sc_hd__mux4_1 A0 A1 A2 A3 S0 S1 VGND VNB VPB VPWR X
