* Spice netlister for gnetlist
.lib '/home/daniel/Research/Tools/skywater/skywater-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice' tt
.include '/home/daniel/Research/Projects/Navy_2019/skywater_pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
* 4-to-1 MUX
Xand1 I0 out_inv1 out_inv2 VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and3_1
Xand2 I1 S0 out_inv2 VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and3_1
Xand3 I2 S1 out_inv1 VGND VGND VPWR VPWR out_and3 sky130_fd_sc_hd__and3_1
Xand4 I3 S0 S1 VGND VGND VPWR VPWR out_and4 sky130_fd_sc_hd__and3_1
Xinv1 S0 VGND VGND VPWR VPWR out_inv1 sky130_fd_sc_hd__inv_1
Xinv2 S1 VGND VGND VPWR VPWR out_inv2 sky130_fd_sc_hd__inv_1
Xor1 out_and1 out_and2 out_and3 out_and4 VGND VGND VPWR VPWR out_or1 sky130_fd_sc_hd__or4_1
*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd
* I(0,1,2,3)= 1011
* S(0,1)= 00
VI0 I0 0 vd
VI1 I1 0 0
VI2 I2 0 vd
VI3 I3 0 vd
VS0 S0 0 0
VS1 S1 0 0
*
.tran 1ps 10ns
*
.control 
run
plot v(I0) v(I1) v(I2) v(I3) ylimit -1 3
plot v(S0) v(S1) ylimit -1 3
plot v(out_or1) ylimit -1 3 
.endc
*
.END
